US06455528B1
(1) 1-Acetyl-4-(4,6-diethoxypyrimidin-2-yl)piperazine
A solution of 1-acetyl-4-(4,6-difluoropyrimidin-2-yl)piperazine (1.5 g) and sodium ethoxide (1.3 g) in ethanol (15 ml) was refluxed under heating for 1 hr. The reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give the title compound (1.8 g) as a pale-brown solid.

reactant | 1-acetyl-4-(4,6-difluoropyrimidin-2-yl)piperazine | 1.5 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC(=N1)F)F | C10H12F2N4O
reactant | sodium ethoxide | 1.3 g | [O-]CC.[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 1-Acetyl-4-(4,6-diethoxypyrimidin-2-yl)piperazine | 1.8 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC(=N1)OCC)OCC | C14H22N4O3
